US06455507B1
(e) (±)-(1R*,2S*,4R*)-4-(5,6-Dichloro-1H-benzimidazol-1-yl)cyclohexane-1,2-diol
Pyridinium para-toluenesulfonate (33.6 mg, 134.7 mmol) was added to (±)-5,6-dichloro-1-(2,2dimethyl-hexahydro-benzo[1,3]dioxol-5-yl)-1H-benzimidazole (part d of this experiment, 459.6 mg, 1.35 mmol) in methanol (7 ml) and the reaction was heated at reflux for 19 hr and concentrated. The residue was purified by column chromatography eluting with methanol:ethyl acetate (1:9) to give the title compound (184.4 mg, 45%). Rf=0.19 (1:9 methanol:ethyl acetate); 1H-NMR (CD3OD, 300 MHz) δ8.36 (s, 1H), 7.91 (s, 1H), 7.80 (s, 1H), 4.70 (tt, 1H, J=12, 4), 4.11 (d, 1H, J=3), 3.79-3.73 (m, 1H), 2.26 (dq, 1H, J=13, 3), 2.15-2.10 (m, 2H), 2.06-1.99 (m, 2H), 1.88-1.85 (m, 1H); MS (ES) M+H=301.

reactant | Pyridinium para-toluenesulfonate | 134.7 mmol, 33.6 mg | C1(=CC=C(C=C1)S(=O)(=O)[O-])C.[NH+]1=CC=CC=C1
reactant | (±)-5,6-dichloro-1-(2,2dimethyl-hexahydro-benzo[1,3]dioxol-5-yl)-1H-benzimidazole | ClC1=CC2=C(N(C=N2)C2CC3C(OC(O3)(C)C)CC2)C=C1Cl | C16H18Cl2N2O2
solvent | methanol | 7 ml | CO | CH4O
product | (±)-(1R*,2S*,4R*)-4-(5,6-Dichloro-1H-benzimidazol-1-yl)cyclohexane-1,2-diol | 184.4 mg, 45% | ClC1=CC2=C(N(C=N2)[C@H]2C[C@@H]([C@@H](CC2)O)O)C=C1Cl | C13H14Cl2N2O2
